US04980470
Synthesis of 1-cyclopropyl-6-fluoro-1,4-dihydro-8-methoxy-7-(3-methylaminomethyl-1-pyrrolidinyl)-4-oxo-3-quinolinecarboxylic acid
A mixture of 1-cyclopropyl-6,7-difluoro-1,4-dihydro-8-methoxy-4-oxo-3-quinolinecarboxylic acid (200 mg), 3-methylaminomethylpyrrolidine (90 mg), DBU (110 mg) and anhydrous acetonitrile (3 ml) was refluxed for 75 minutes. After cooling, the resulting precipitate was collected by filtration and recrystallized from a solution of dichloromethane-methanol (1:1) to give the title compound (130 mg) as white powdery crystals, mp 226.5°-230° C.

reactant | 1-cyclopropyl-6,7-difluoro-1,4-dihydro-8-methoxy-4-oxo-3-quinolinecarboxylic acid | 200 mg | C1(CC1)N1C=C(C(C2=CC(=C(C(=C12)OC)F)F)=O)C(=O)O | C14H11F2NO4
reactant | 3-methylaminomethylpyrrolidine | 90 mg | CNCC1CNCC1 | C6H14N2
reactant | DBU | 110 mg | C1CCC2=NCCCN2CC1 | C9H16N2
solvent | acetonitrile | 3 ml | C(C)#N | C2H3N
product | 1-cyclopropyl-6-fluoro-1,4-dihydro-8-methoxy-7-(3-methylaminomethyl-1-pyrrolidinyl)-4-oxo-3-quinolinecarboxylic acid | 130 mg | C1(CC1)N1C=C(C(C2=CC(=C(C(=C12)OC)N1CC(CC1)CNC)F)=O)C(=O)O | C20H24FN3O4
